US04160829
Under anhydrous conditions, a stream of gaseous hydrochloric acid was passed through 25 ml of n-heptanol and as soon as a saturated solution was reached at room temperature, 5.7 g (0.04 mol) of 3-methyl-1,2,4-oxadiazol-5-yl-acetic acid were introduced. Introduction of a slow stream of hydrochloric acid was continued for two hours and the reaction mixture was then stirred for 60 hours at room temperature whereby conversion of the carboxylic acid was virtually completed. The reaction mixture was thoroughly mixed with 75 ml of cold water and the layers were separated. The organic layer was washed three times with 10 ml volumes of a saturated solution of sodium bicarbonate in water, and two times with 10 ml of cold water. All water-layers were combined and extracted twice with 20 ml volumes of ethyl acetate. The combined ethyl acetate extracts were once washed with 10 ml of iced water and the water-layers were discarded. The two organic layers were combined, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was distilled and fractionated at reduced pressure to obtain 6.8 g of n-heptyl 3-methyl-1,2,4-oxadiazol-5-yl-acetate of about 95% molar purity (impurity mainly a small amount of n-heptanol with a b.p. of 108° C. at 0.25 mm Hg and a refractive index nD20 =1.450.

reactant | hydrochloric acid | Cl | ClH
reactant | n-heptanol | 25 ml | C(CCCCCC)O | C7H16O
reactant | 3-methyl-1,2,4-oxadiazol-5-yl-acetic acid | 0.04 mol, 5.7 g | CC1=NOC(=N1)CC(=O)O | C5H6N2O3
solvent | water | 75 ml | O | H2O
product | n-heptyl 3-methyl-1,2,4-oxadiazol-5-yl-acetate | 6.8 g | CC1=NOC(=N1)CC(=O)OCCCCCCC | C12H20N2O3
